US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.260 g, 2.27 mmol), 2-chloro-4-(2-isopropylphenylthio)pyridine (0.600 g, 2.27 mmol), potassium phosphate (0.531 g, 2.50 mmol), Pd2(dba)3 (0.104 g, 0.114 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.066 g, 0.114 mmol) were reacted to provide N-(4-(2-isopropylphenylthio)pyridin-2-yl)-4-methylthiazol-2-amine hydrochloride salt (0.301 g, 35% yield). 1H NMR (d6-DMSO) δ 11.1 (bs, 1H), 8.15 (d, 1H), 7.57-7.61 (m, 3H), 7.37 (m, 1H), 6.76 (s, 1H), 6.71-6.73 (m, 2H), 3.37 (heptet, 1H), 2.26 (s, 3H), 1.17 (d, 6H).

reactant | 4-methylthiazol-2-amine | 2.27 mmol, 0.260 g | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(2-isopropylphenylthio)pyridine | 2.27 mmol, 0.600 g | ClC1=NC=CC(=C1)SC1=C(C=CC=C1)C(C)C | C14H14ClNS
reactant | potassium phosphate | 2.50 mmol, 0.531 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.114 mmol, 0.066 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | Pd2(dba)3 | 0.114 mmol, 0.104 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(2-isopropylphenylthio)pyridin-2-yl)-4-methylthiazol-2-amine hydrochloride salt | 0.301 g, 35% yield | Cl.C(C)(C)C1=C(C=CC=C1)SC1=CC(=NC=C1)NC=1SC=C(N1)C | InChI=1S/C18H19N3S2.ClH/c1-12(2)15-6-4-5-7-16(15)23-14-8-9-19-17(10-14)21-18-20-13(3)11-22-18;/h4-12H,1-3H3,(H,19,20,21);1H
